US06204277B1
3-[4-[2-(5-Methyl-2-phenyl-4-oxazolyl)ethoxy]benzylidene]pentane-2,4-dione
To a solution of 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzaldehyde (3.07 g, 10 mmol) synthesized according to the method described in WO95/18125 in toluene (40 ml) were added 2,4-pentanedione (1.2 g, 12 mmol), acetic acid (300 mg) and piperidine (425 mg). While removing water through Dean-Stark trap, the mixture was refluxed under heating. Five hours later, toluene was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (developing solvent; hexane:ethyl acetate=1:1) and the fraction containing the objective substance was concentrated under reduced pressure to give the title compound (2.3 g, yield 60%) as a yellow oil.

reactant | 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzaldehyde | 10 mmol, 3.07 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=O)C=C1 | C19H17NO3
reactant | 2,4-pentanedione | 12 mmol, 1.2 g | CC(CC(C)=O)=O | C5H8O2
reactant | acetic acid | 300 mg | C(C)(=O)O | C2H4O2
reactant | piperidine | 425 mg | N1CCCCC1 | C5H11N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[4-[2-(5-Methyl-2-phenyl-4-oxazolyl)ethoxy]benzylidene]pentane-2,4-dione | 2.3 g, yield 60% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C(C(C)=O)C(C)=O)C=C1 | C24H23NO4
